US06479487B1
1-(2-Phenylethyl)-4-piperidone oxime is prepared from 1-(2-phenylethyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(2-phenylethyl)-4-piperidone | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(2-Phenylethyl)-4-piperidone oxime | C1(=CC=CC=C1)CCN1CCC(CC1)=NO | C13H18N2O
